US06399631B1
N-(9-Ethyl-6-hydroxymethyl-9H-carbazol-3-yl)-acetamide
To a solution of N-(9-Ethyl-6-formyl-9H-carbazol-3-yl)-acetamide (50 mg, 0.150 mmol) in EtOH (5 ml) at 0° C. was added NaBH4 (8.5 mg, 0.225 mmol), and after 10 minutes the cooling bath was removed. After 1 hour additional NaBH4 (2 mg) was added, and after stirring 90 minutes water was added, the EtOH removed in vacuo, and the aqueous layer extracted with CH2Cl2. The organic layer was dried (Na2SO4) and concentrated to afford the crude product. Chromatographic purification (silica, 50% EtOAc/Hex) afforded the product as a solid (28 mg, 56% yield). MS m/z @ 337 (m+1).

reactant | N-(9-Ethyl-6-formyl-9H-carbazol-3-yl)-acetamide | 0.150 mmol, 50 mg | C(C)N1C2=CC=C(C=C2C=2C=C(C=CC12)NC(C)=O)C=O | C17H16N2O2
reactant | NaBH4 | 0.225 mmol, 8.5 mg | [BH4-].[Na+]
solvent | EtOH | 5 ml | CCO | C2H6O
product | N-(9-Ethyl-6-hydroxymethyl-9H-carbazol-3-yl)-acetamide | 28 mg, 56% yield | C(C)N1C2=CC=C(C=C2C=2C=C(C=CC12)NC(C)=O)CO | C17H18N2O2
